US07488831B2
Synthesis of [(5-hydroxy-1-methyl-3-trifluoromethylpyrazol-4-yl)-methylthio]benzene
5-Hydroxy-1-methyl-3-trifluoromethylpyrazole (1.7 g (10 mmol)) synthesized in Reference Example 1 and 0.6 g (15 mmol) of sodium hydroxide were dissolved in 10 mL of water. While stirring the resulting solution at room temperature, 1.7 g (20 mmol) of a 35% formalin solution was added dropwise thereto, followed by stirring at the same temperature for 1 hour. Furthermore, 11.0 g (10 mmol) of thiophenol was added dropwise thereto at room temperature, and the obtained mixture was stirred for 7 hours. After the reaction, 5.0 g (50 mmol) of 35% hydrochloric acid was added dropwise thereto, and the precipitated crystal was collected by filtration, washed twice with 5 mL of water and dried by a hot air drier to obtain 2.2 g (yield: 76.4%) of the title compound as a pale yellow crystal. This crystal was recrystallized from n-hexane-2-propanol and obtained as a white crystal.

reactant | 5-Hydroxy-1-methyl-3-trifluoromethylpyrazole | 10 mmol, 1.7 g | OC1=CC(=NN1C)C(F)(F)F | C5H5F3N2O
reactant | sodium hydroxide | 15 mmol, 0.6 g | [OH-].[Na+]
reactant | formalin | C=O | CH2O
reactant | thiophenol | 10 mmol, 11.0 g | C1(=CC=CC=C1)S | C6H6S
reactant | hydrochloric acid | 50 mmol, 5.0 g | Cl | ClH
solvent | water | 10 mL | O | H2O
product | [(5-hydroxy-1-methyl-3-trifluoromethylpyrazol-4-yl)-methylthio]benzene | 2.2 g, yield: 76.4% | OC1=C(C(=NN1C)C(F)(F)F)CSC1=CC=CC=C1 | C12H11F3N2OS
